US06515011B2
To a stirred solution of 2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzylamine (0.52 g, 1.93 mmol) in dichloromethane (2 mL) was added diisopropylethylamine (0.34 mL, 1.95 mmol) and the solution was cooled to −78° C. Bromoacetyl bromide (0.19 mL, 2.12 mmol) was added slowly and after the addition was complete, the temperature was raised to 0° C. The reaction was complete in 15 min based on the disappearance of starting amine on silica gel TLC a 95:5 mixture of dichloromethane to methanol as mobile phase. The solvent was removed on a rotary evaporator to yield N-(2-(tert-butyloxycarbonylaminomethyl-5-chlorobenzyl)bromoacetamide (0.75 g).

reactant | 2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzylamine | 1.93 mmol, 0.52 g | C(C)(C)(C)OC(=O)NCC1=C(CN)C=C(C=C1)Cl | C13H19ClN2O2
reactant | diisopropylethylamine | 1.95 mmol, 0.34 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Bromoacetyl bromide | 2.12 mmol, 0.19 mL | BrCC(=O)Br | C2H2Br2O
reactant | methanol | CO | CH4O
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-(tert-butyloxycarbonylaminomethyl-5-chlorobenzyl)bromoacetamide | 0.75 g | C(C)(C)(C)OC(=O)NCC(C1=CC=CC(=C1)Cl)C(C(=O)N)Br | C15H20BrClN2O3
